US04889863
Preparation of 2-phenylthio-4-amino-5-cyanothiazole, starting substance for the preparation of compounds (42) and (43) according to examples II and I.
15.5 ml (16.5 g) of thiophenol are added to a suspension of 9.35 g of 2-methylsulphinyl-4-amino-5-cyanothiazole, prepared according to example I, in 250 ml of acetonitrile, while stirring. After stirring at room temperature for another 30 minutes and leaving to stand overnight, the mixture is filtered with charcoal, after which the filtrate is evaporated. The residue is taken up in methylene chloride, after which the resulting solution is washed, successively with 2N sodium hydroxide solution and water, dried, filtered and diluted with isopropanol. After evaporating the methylene chloride the desired product crystallises in a yield of 7.62 g; m.p. 176°-18° C.; Rf (CH2Cl2) 0.15.

reactant | thiophenol | 15.5 ml, 16.5 g | C1(=CC=CC=C1)S | C6H6S
reactant | 2-methylsulphinyl-4-amino-5-cyanothiazole | 9.35 g | CS(=O)C=1SC(=C(N1)N)C#N | C5H5N3OS2
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 2-phenylthio-4-amino-5-cyanothiazole | C1(=CC=CC=C1)SC=1SC(=C(N1)N)C#N | C10H7N3S2
